US07842685B2
Synthesis of N-benzyl-2-(3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)ethanamine
2-(3-Fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)acetaldehyde (44 mg, 0.113 mmol) was dissolved in chloroform (1.1 mL) before it was stirred at ambient temperature with benzylamine (62 μl, 0.57 mmol) and PTSA (1 mg) for 16 h. Methanol (1.1 mL) and sodium cyanoborohydride (7.1 mg, 0.113 mmol) were then added and allowed to stir in the reaction mixture over 3 d. The reaction mixture was diluted with DCM, added to a separatory funnel, partitioned with sodium bicarbonate (saturated, aqueous), washed with sodium bicarbonate (saturated, aqueous), separated, dried over sodium sulfate, and concentrated via rotovap to give the title compound after flash chromatography. MS (ESI) m/z: Calculated: 479.2; Observed: 480.1 (M++H).

reactant | 2-(3-Fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)acetaldehyde | 0.113 mmol, 44 mg | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CC=O | C23H17FN2OS
reactant | benzylamine | 0.57 mmol, 62 μl | C(C1=CC=CC=C1)N | C7H9N
reactant | PTSA | 1 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | sodium cyanoborohydride | 0.113 mmol, 7.1 mg | C(#N)[BH3-].[Na+]
solvent | chloroform | 1.1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | Methanol | 1.1 mL | CO | CH4O
product | N-benzyl-2-(3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)ethanamine | C(C1=CC=CC=C1)NCCC1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F | C30H26FN3S
